US07732435B2
3-(4-Chlorophenyl)-2-isopropyl-9-methyl-7H-pyrano[2,3-e]indazol-4-one
2,4,6-Trimethylbenzenesulfonic acid 8-acetyl-3-(4-chlorophenyl)-2-isopropyl-4oxo-4H-chromen-7-yl ester (470 mg, 0.87 mmol), ammonium acetate (339 mg, 4.4 mmol) and magnesium sulfate (530 mg, 4.4 mmol) are dissolved/suspended in toluene (7 ml) and ethanol (7 ml) in a 20 ml capacity microwave tube. Hydrazine hydrate (0.136 ml, 4.4 mmol) is added, the tube is sealed, and the mixture is heated at 140° C. under microwave irradiation for 2 h. The reaction mixture is then poured into water (20 ml) and extracted with ethyl acetate (3×20 ml). The ethyl acetate extracts are combined, washed with saturated brine (50 ml), dried (MgSO4), filtered and evaporated to give a light brown solid. This is absorbed onto silica gel and purified by chromatography on silica gel using n-hexane/ethyl acetate (0-50% ethyl acetate) as eluant to give the product as a colourless solid.

reactant | 2,4,6-Trimethylbenzenesulfonic acid 8-acetyl-3-(4-chlorophenyl)-2-isopropyl-4oxo-4H-chromen-7-yl ester | 0.87 mmol, 470 mg | C(C)(=O)C=1C(=CC=C2C(C(=C(OC12)C(C)C)C1=CC=C(C=C1)Cl)=O)OS(=O)(=O)C1=C(C=C(C=C1C)C)C | C29H27ClO6S
reactant | ammonium acetate | 4.4 mmol, 339 mg | C(C)(=O)[O-].[NH4+]
reactant | magnesium sulfate | 4.4 mmol, 530 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | Hydrazine hydrate | 4.4 mmol, 0.136 ml | O.NN
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3-(4-Chlorophenyl)-2-isopropyl-9-methyl-7H-pyrano[2,3-e]indazol-4-one | ClC1=CC=C(C=C1)C=1C(C=2C(=C3C(=NNC3=CC2)C)OC1C(C)C)=O | C20H17ClN2O2
